US06982348B2
1) benzyl 4-(pyridin-2-yloxy)benzoate
To a solution of benzyl 4-hydroxybenzoate (25.3 g, 111 mmol) in N,N-dimethylformamide (60 ml) was added potassium tert-butoxide (12.4 g, 111 mmol), and the mixture was stirred at room temperature for 1 hr. The reaction solution was evaporated under reduced pressure and 2-bromopyridine (24.5 g, 155 mmol), a copper powder (1.76 g, 27.7 mmol) and N,N-imethylformamide (80 ml) were added. The mixture was stirred at 120° C. for 8 hrs. The reaction solution was filtered with celite, and the filtrate was evaporated under reduced pressure. To the residue was added water (500 ml), and the mixture was extracted with ethyl acetate (500 ml). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1). Recrystallization from ethyl acetate-hexane gave the objective substance (25.5 g, 73%).

reactant | benzyl 4-hydroxybenzoate | 111 mmol, 25.3 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | potassium tert-butoxide | 111 mmol, 12.4 g | CC(C)([O-])C.[K+]
reactant | 2-bromopyridine | 155 mmol, 24.5 g | BrC1=NC=CC=C1 | C5H4BrN
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | copper | 27.7 mmol, 1.76 g | [Cu] | Cu
product | benzyl 4-(pyridin-2-yloxy)benzoate | N1=C(C=CC=C1)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H15NO3
